US06368860B1
In a preferred embodiment of the process the roots are cut into 4-7 mm small explants; are sterilized by treatment with 1% cetabelon (v/v) for a period of about 5-15 minutes, then with 70% (V/v) ethanol for 30 sec., followed by treatment with 0.1% HgCl2 (w/v) for about 1-2 min. The basal medium in step (a) is modified Murashige and Skoog's (1962) medium supplemented with 200 mg/l myoinositol, 10 mg/l each of thiamine hydrochloride and pyridoxine hydrochloride and 5 mg/l of nicotinic acid (Medium I), and medium II used in step (b) is obtained by addition of 2,4-dichlorophenoxyacetic acid (0.1-2.0 mg/l) and Kn (0.1-0.5 mg/l), that are preferably added to the basal medium for optimal callus growth.

reactant | myoinositol | C1(C(C(C(C(C1O)O)O)O)O)O | C6H12O6
reactant | thiamine hydrochloride | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO.Cl.[Cl-]
reactant | pyridoxine hydrochloride | CC1=C(C(=C(C=N1)CO)CO)O.Cl
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
catalyst | HgCl2 | Cl[Hg]Cl
solvent | ethanol | C(C)O | C2H6O
product | 2,4-dichlorophenoxyacetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)Cl | C8H6Cl2O3
